US07973051B2
i) (4-Ethyl-thiazol-2-yl)-carbamic acid tert-butyl ester
The above prepared 4-ethyl-thiazol-2-ylamine (1.50 g, 11.7 mmol) was dissolved in 23 mL of tBuOH and treated successively with DMAP (0.143 g, 0.1 eq.), NaHCO3 (2.46 g, 2.5 eq.) and BOC2O (2.81 g, 1.1 eq.). After stirring for 0.5 h at 40° C., the reaction mixture was poured onto icewater/NH4Cl, twofold extracted with ethyl acetate, washed with water, dried over sodium sulfate, and evaporated to dryness. Ensuing flash chromatography (SiO2, heptane/ethyl acetate=85/15), yielded finally 2.04 g of the title compound as yellow solid.

reactant | 4-ethyl-thiazol-2-ylamine | 11.7 mmol, 1.50 g | C(C)C=1N=C(SC1)N | C5H8N2S
reactant | NaHCO3 | 2.46 g, 2.5 eq. | C(=O)(O)[O-].[Na+]
reactant | BOC2O | 2.81 g, 1.1 eq. | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | NH4Cl | [NH4+].[Cl-]
solvent | tBuOH | 23 mL | CC(C)(C)O | C4H10O
catalyst | DMAP | 0.143 g, 0.1 eq. | CN(C)C=1C=CN=CC1 | C7H10N2
product | (4-Ethyl-thiazol-2-yl)-carbamic acid tert-butyl ester | 2.04 g | C(C)(C)(C)OC(NC=1SC=C(N1)CC)=O | C10H16N2O2S
